US04904671
5-(1-Methylimidazo[4,5-c]pyrid-2-yl)pentanol
3-Amino-4-(methylamino) pyridine (1.23 g), 6,6-dimethoxyhexanol (1.62 g), copper (II) acetate monohydrate (4 g), ethanol (30 ml) and water (30 ml) were mixed and then heated at 150° in a sealed tube for 3 hours. To the cold reaction mixture was added concentrated aqueous ammonia (5 cm3) and the mixture was then filtered through "Hyflo" (Trade Mark), diluted with water (50 ml) and extracted with methylene chloride (3×200 ml). The combined organic extracts were dried over Na2SO4, filtered, and evaporated under vacuum. The residue was chromatographed on silica eluting with a mixture of methylene chloride and methanol. The fractions containing the product were evaporated to leave the title compound, (0.66 g).

reactant | 3-Amino-4-(methylamino) pyridine | 1.23 g | NC=1C=NC=CC1NC | C6H9N3
reactant | 6,6-dimethoxyhexanol | 1.62 g | COC(CCCCCO)OC | C8H18O3
reactant | ethanol | 30 ml | C(C)O | C2H6O
reactant | ammonia | 5 cm3 | N | H3N
catalyst | copper (II) acetate monohydrate | 4 g | O.C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
solvent | water | 30 ml | O | H2O
product | 5-(1-Methylimidazo[4,5-c]pyrid-2-yl)pentanol | 0.66 g | CN1C(=NC=2C=NC=CC21)CCCCCO | C12H17N3O
